US07572809B2
Similar procedure as described in example 131 was used, starting from (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and Phenylboronic acid to give (6,7-dimethoxy-1-phenyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 361(MH+).

reactant | (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
reactant | Phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | (6,7-dimethoxy-1-phenyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1OC)C1=CC=CC=C1)NC1=NNC(=C1)C | C21H20N4O2
